US07429605B2
658 mg (0.40 ml, 5.53 mmol) thionyl chloride is added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 700 mg (2.76 mmol) [5-(4-Trifluoromethyl-phenyl)-pyridin-2-yl]-methanol, stirred for 5 min. at 0° C., and at room temperature (r.t.) for 1 h. The mixture is poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with ethyl acetate. The combined organic phases were washed with water, dried (sodium sulphate), and evaporated. Purification by chromatography on silica (eluent: ethyl acetate/n-heptane 1:4) gave 170 mg (23%) of 2-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine as slightly pink crystals.

reactant | thionyl chloride | 5.53 mmol, 0.40 ml, 658 mg | S(=O)(Cl)Cl | Cl2OS
reactant | [5-(4-Trifluoromethyl-phenyl)-pyridin-2-yl]-methanol | 2.76 mmol, 700 mg | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)CO)(F)F | C13H10F3NO
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 2-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine | 170 mg, 23% | ClCC1=NC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
